US08053441B2
5-Chloro-2-(2-methyl-acryloylamino)-benzamide
2-Amino-5-chloro-benzamide (2.5 mmoL), a literature known compound, was treated with TEA (3.0 mmoL) followed by methylacryl chloride (2.5 mmoL) in DCM at 0° C. The reaction was slowly warmed to room temperature and kept for another 2 h. The reaction mixture was then partitioned between DCM and water. The organic layer was washed with sat. Na2CO3, brine, dried over anhydrous Na2SO4, filtered, concentrated and purified by silica gel column chromatography to afford the title compound as a white solid.

reactant | 2-Amino-5-chloro-benzamide | NC1=C(C(=O)N)C=C(C=C1)Cl | C7H7ClN2O
reactant | methylacryl chloride | CC=CC(=O)Cl | C4H5ClO
reactant | DCM | C(Cl)Cl | CH2Cl2
product | 5-Chloro-2-(2-methyl-acryloylamino)-benzamide | ClC=1C=CC(=C(C(=O)N)C1)NC(C(=C)C)=O | C11H11ClN2O2
